US05192766
Ethyl (E)-4-butoxy-3-methoxycinnamate
Following a procedure similar to that described in Preparation 116, but using 6.66 g of ethyl (E)-4-hydroxy-3-methoxycinnamate and 6.62 g of butyl iodide, 7.00 g of the title compound were obtained as a solid material.

reactant | ethyl (E)-4-hydroxy-3-methoxycinnamate | 6.66 g | OC1=C(C=C(/C=C/C(=O)OCC)C=C1)OC | C12H14O4
reactant | butyl iodide | 6.62 g | C(CCC)I | C4H9I
product | Ethyl (E)-4-butoxy-3-methoxycinnamate | 7.00 g | C(CCC)OC1=C(C=C(/C=C/C(=O)OCC)C=C1)OC | C16H22O4
